US05470850
(+) 8-Chloro-5-(5-bromo-2,3-dihydrobenzofuran-7-yl)-7-hydroxy-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine
(+) 8-Chloro-5-(2,3-dihydrobenzofuran-7-yl)-7-methoxy-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine (1.0 g, 2.9 mmol) was dissolved in acetic acid (10 ml). To the stirred solution was added bromine (0.20 ml, 4.0 mmol) in acetic acid (5 ml) over a period of 2 h. The mixture was stirred overnight at room temperature. A precipitate was formed. The white solid was filtered and washed with diethylether.

reactant | (+) 8-Chloro-5-(2,3-dihydrobenzofuran-7-yl)-7-methoxy-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 2.9 mmol, 1.0 g | ClC=1C(=CC2=C(CCN(CC2C2=CC=CC=3CCOC32)C)C1)OC | C20H22ClNO2
reactant | bromine | 4.0 mmol, 0.20 ml | BrBr | Br2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | (+) 8-Chloro-5-(5-bromo-2,3-dihydrobenzofuran-7-yl)-7-hydroxy-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | ClC=1C(=CC2=C(CCN(CC2C2=CC(=CC=3CCOC32)Br)C)C1)O | C19H19BrClNO2
